US07851473B2
(3) 2,2,2-Trichloroethyl [4-(propionylamino)phenyl]carbamate
To a solution of N-(4-aminophenyl)propanamide (2.00 g, 10.3 mmol) and pyridine (2.50 ml, 30.9 mmol) in N,N-dimethylacetamide (40 ml) was added 2,2,2-trichloroethyl chloroformate (2.13 ml, 15.5 mmol) under ice-cooling, and the mixture was stirred under ice-cooling for 2 hours. The reaction mixture was poured into ice-water, and 3.41 g (97.4%) of the desired product was collected by filtration as a solid.

reactant | N-(4-aminophenyl)propanamide | 10.3 mmol, 2.00 g | NC1=CC=C(C=C1)NC(CC)=O | C9H12N2O
reactant | pyridine | 30.9 mmol, 2.50 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 15.5 mmol, 2.13 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | N,N-dimethylacetamide | 40 ml | CN(C(C)=O)C | C4H9NO
product | 2,2,2-Trichloroethyl [4-(propionylamino)phenyl]carbamate | 3.41 g, 97.4% | C(CC)(=O)NC1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C12H13Cl3N2O3
